US07741327B2
To a solution containing (S)-2-[4-(2-fluoro-3-vinyl-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid ethyl ester (0.400 g, 0.001 mol) in tetrahydrofuran (6 mL) was treated with an aqueous solution of lithium hydroxide monohydrate (0.5N, 3 mL, 0.002 mol). The mixture was stirred at 20° C. for 2 h, and the solvents evaporated. The residue was dissolved in water and washed with diethyl ether, and the diethyl ether layer discarded. The aqueous phase was acidified with dilute hydrochloric acid (pH <2), and extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate and concentrated to afford (S)-2-[4-(2-fluoro-3-vinyl-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid (0.35 g, 95%) as a white solid.

reactant | (S)-2-[4-(2-fluoro-3-vinyl-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid ethyl ester | 0.001 mol, 0.400 g | C(C)OC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C(=CC=C1)C=C)F)=O)=O | C20H24FNO4
reactant | lithium hydroxide monohydrate | 0.002 mol, 0.5N, 3 mL | O.[OH-].[Li+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | (S)-2-[4-(2-fluoro-3-vinyl-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid | 0.35 g, 95% | FC1=C(OC2=CC(N(C2)[C@H](C(=O)O)CC(C)C)=O)C=CC=C1C=C | C18H20FNO4
